US07019157B2
Using a 300 ml three-necked flask as the reactor, under a nitrogen stream, 1.36 g (2.57 millimoles) of [1,2-bis(diphenylphosphino)ethane]dichloronickel(II) was dissolved in 20 ml of tetrahydrofuran. To this suspension there was added a solution of 10 g (51.30 millimoles) of 7-bromoindene in 100 ml of tetrahydrofuran, prepared based on the method described in J. Org. Chem. 49, 4226–4237(1984). After dropwise addition of 51 ml (102.60 millimoles) of isopropylmagnesium bromide (2N) to the mixed solution while cooling on ice, the mixture was heated to reflux for 20 hours. After reflux, hydrolysis was performed with a saturated aqueous solution of ammonium chloride, distilled water was added, extraction was performed several times with diethyl ether, and then the extract was washed once with saturated saline and dried over anhydrous magnesium sulfate. After drying, the magnesium sulfate was filtered off and the solvent was purified with a silica gel column to obtain 7.14 g of 7-isopropylindene as a yellow oil (88% yield).

reactant | 7-bromoindene | 51.30 millimoles, 10 g | BrC=1C=CC=C2C=CCC12 | C9H7Br
reactant | isopropylmagnesium bromide | 102.60 millimoles, 2N, 51 ml | C(C)(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | [1,2-bis(diphenylphosphino)ethane]dichloronickel(II) | 2.57 millimoles, 1.36 g | C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Ni]Cl
product | 7-isopropylindene | 7.14 g, 88% yield | C(C)(C)C=1C=CC=C2C=CCC12 | C12H14
